US07569578B2
(±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate (35.2 mg, 0.063 mmol) was dissolved in a minimum amount of ethyl acetate, and treated with hydrochloric acid (4 N in dioxane, 1.0 mL). The mixture was stirred under nitrogen overnight. After removal of the solvents, the crude mixture was treated with diethyl ether to give a precipitate which was filtered. The resulting solid was dissolved in dimethylformamide (1.0 mL), cooled to 0° C., and treated with carbonyl diimidazole (11.0 mg, 0.066 mmol, 1.05 equiv) and diisopropylethylamine (44.0 μL, 4.0 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred for 10 min, and treated with 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (17.6 mg, 0.066 mmol, 1.05 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to afford 4.6 mg (12%, 2 steps). 1H-NMR (CD3OD, 500 MHz) δ 1.48-1.65 (m, 4H), 2.03 (s, 1H), 2.45 (s, 3H), 2.69-2.82 (m, 2H), 3.99-4.16 (m, 2H), 4.19 (s, 2H), 5.24 (d, J=16.5, 1H), 6.67 (d, J=7.6, 1H), 6.80 (d, J=7.9, 1H), 6.89 (s, 1H), 6.97 (dd, J=8.2, 7.6, 1H), 7.10-7.23 (m, 5H), 7.30 (s, 1H), 7.37-7.42 (m, 1H), 7.94 (s, 1H). Mass spec.: 590.3 (MH)+.

reactant | tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate | 0.063 mmol, 35.2 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)CC1=NC=CC=C1)NC(OC(C)(C)C)=O | C30H42N6O3Si
reactant | hydrochloric acid | 4 N, 1.0 mL | Cl | ClH
reactant | carbonyl diimidazole | 0.066 mmol, 11.0 mg, 1.05 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | diisopropylethylamine | 44.0 μL, 4.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 0.066 mmol, 17.6 mg, 1.05 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | CC=1C=C(C=C2C=NNC12)CC(C=1N(C=CN1)CC1=NC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C33H35N9O2
